US08378104B2
Step E: 3-{4-[1-(1-acetylpiperidin-4-yl)-1H-pyrazol-4-yl]-7-aminofuro[2,3-c]pyridin-2-yl}-5-methylthieno[3,2-c]pyridin-6(5H)-one (Title Compound)
The title compound was prepared in 30% yield from 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone and 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[3,2-c]pyridin-6(5H)-one by a procedure analogous to Example 223, Step D. 1H NMR (400 MHz, CD3OD): δ 9.01 (s, 1 H), 8.29 (s, 1 H), 8.17 (s, 1 H), 8.03 (s, 1 H), 7.83 (s, 1 H), 7.75 (s, 1 H), 7.07 (s, 1 H), 4.69 (m, J=13.1 Hz, 1 H), 4.51-4.62 (m, 1 H), 4.11 (m, J=16.4 Hz, 1 H), 3.87 (s, 3 H), 3.33-3.42 (m, 1 H), 2.80-2.96 (m, 1 H), 2.16-2.30 (m, 5 H), 1.95-2.15 (m, 2 H); MS (ESI): 489.37 [M+H]+; HPLC tR=2.32 min (ZQ3, polar—4 min).

reactant | 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | NC=1N=CC(=C2C1OC(=C2)Cl)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C17H18ClN5O2
reactant | 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[3,2-c]pyridin-6(5H)-one | CN1C=C2C(=CC1=O)SC=C2B2OC(C(O2)(C)C)(C)C | C14H18BNO3S
product | 3-{4-[1-(1-acetylpiperidin-4-yl)-1H-pyrazol-4-yl]-7-aminofuro[2,3-c]pyridin-2-yl}-5-methylthieno[3,2-c]pyridin-6(5H)-one | 30% yield | C(C)(=O)N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=CSC=1C2=CN(C(C1)=O)C | C25H24N6O3S
